US07378409B2
Preparation A1, Step 4: A sample of (1R,6S)-(6-carbamoyl-cyclohex-3-enyl)-carbamic acid benzyl ester (30.7 g) was dissolved in THF (1100 mL) and NMP (220 mL). At −78° C., 2.3M n-BuLi (96.3 mL) was added dropwise. After 2 h, a solution of Boc2O (24.4 g) in THF (40 mL) was added dropwise. This solution was stirred 1.2 h before it was quenched with a saturated NH4Cl solution. Water and Et2O were added. The organic layer was filtered then washed with water, brine, dried, filtered, and concentrated. Flash chromatography of the resulting residue gave (1R,6S)-(6-tert-butoxycarbonylaminocarbonyl-cyclohex-3-enyl)-carbamic acid benzyl ester (29.2 g). MS found: (M+Na)+=397.4.

reactant | (1R,6S)-(6-carbamoyl-cyclohex-3-enyl)-carbamic acid benzyl ester | 30.7 g | C(C1=CC=CC=C1)OC(N[C@@H]1CC=CC[C@@H]1C(N)=O)=O | C15H18N2O3
reactant | n-BuLi | 2.3M, 96.3 mL | [Li]CCCC
reactant | Boc2O | 24.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 1100 mL | C1CCOC1 | C4H8O
solvent | NMP | 220 mL | CN1CCCC1=O | C5H9NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (1R,6S)-(6-tert-butoxycarbonylaminocarbonyl-cyclohex-3-enyl)-carbamic acid benzyl ester | 29.2 g | C(C1=CC=CC=C1)OC(N[C@@H]1CC=CC[C@@H]1C(=O)NC(=O)OC(C)(C)C)=O | C20H26N2O5
